US04851406
Analogously to Example 2 (a), from the so obtained amine there is prepared 2-(4-hydrazinophenyl)-4,5-dihydro-6H-1,3,4-oxadiazin-5-one and the suspension obtained after reduction thereof is mixed, without isolation of the hydrozine, with the 4-acetylpyridine. The reaction mixture is further stirred for 3 hours with suction and washed with water. There is thus obtained, as a crude product, 4-acetylpyridine-[4-(5-oxo-4,5-dihydro-6H-1,3,4-oxadiazin-2-yl)-phenylhydrazone]; m.p. 195° C.

reactant | 2-(4-hydrazinophenyl)-4,5-dihydro-6H-1,3,4-oxadiazin-5-one | N(N)C1=CC=C(C=C1)C=1OCC(NN1)=O | C9H10N4O2
reactant | 4-acetylpyridine | C(C)(=O)C1=CC=NC=C1 | C7H7NO
product | 4-acetylpyridine-[4-(5-oxo-4,5-dihydro-6H-1,3,4-oxadiazin-2-yl)-phenylhydrazone] | O=C1NN=C(OC1)C1=CC=C(C=C1)NN=C(C)C1=CC=NC=C1 | C16H15N5O2
